US07511050B2
Step B: 3-(3-bromobenzyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
The mixture of 2-(3-bromophenyl)-N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]acetohydrazide (1.8 g, 4.2 mmol) in benzene (100 mL) was refluxed overnight. The reaction mixture was concentrated to give the desired product 1.5 g. LCMS calculated for C18H20BrN6O (M+H): 415.1; found: 415.1.

reactant | 2-(3-bromophenyl)-N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]acetohydrazide | 4.2 mmol, 1.8 g | BrC=1C=C(C=CC1)CC(=O)N/N=C/1\NC(C=2NC=NC2N1CCCCC)=O | C18H21BrN6O2
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 3-(3-bromobenzyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 1.5 g | BrC=1C=C(CC2=NN=C3N2C(C=2NC=NC2N3CCCCC)=O)C=CC1 | C18H19BrN6O
